US08486952B2
8-(3,4-difluorophenyl)-7,8-dihydropyrano[3,4-e][1,3]oxazine-2,4(3H,5H)-dione (Intermediate Y(3)) was reacted as described in Intermediate X(4) with ammonium hydroxide to give 8-(3,4-difluorophenyl)-7,8-dihydro-1H-pyrano[4,3-d]pyrimidine-2,4(3H,5H)-dione (Intermediate Y(4)). LC-MS (M−H)+=279.1.

reactant | 8-(3,4-difluorophenyl)-7,8-dihydropyrano[3,4-e][1,3]oxazine-2,4(3H,5H)-dione | FC=1C=C(C=CC1F)C1COCC=2C(NC(OC21)=O)=O | C13H9F2NO4
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 8-(3,4-difluorophenyl)-7,8-dihydro-1H-pyrano[4,3-d]pyrimidine-2,4(3H,5H)-dione | FC=1C=C(C=CC1F)C1COCC2=C1NC(NC2=O)=O | C13H10F2N2O3
